* C:\Users\Parmeet Singh Ghai\Documents\AlarmSystem\LTspice\Draft2.asc
V1 N001 0 8.4 Rser=0.150
XU2 0 VCC N001 LT1086-5
C1 N001 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
C2 N001 0 10µ V=25 Irms=0 Rser=0.0039 Lser=550p mfg="Würth Elektronik" pn="885012208069 WCAP-CSGP 1206" type="X7R"
C3 VCC 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
C4 VCC 0 10µ V=25 Irms=0 Rser=0.0039 Lser=550p mfg="Würth Elektronik" pn="885012208069 WCAP-CSGP 1206" type="X7R"
M1 SpeakerIn N006 0 0 AO6408
R4 AUDIO1 N006 4.7K tol=1 pwr=0.1
Q1 RESET_AUDIO1 N015 0 0 BC547C
R3 AUDIOTOGGLE N015 4.7K tol=1 pwr=0.1
R5 N015 0 4.7K tol=1 pwr=0.1
M2 SpeakerIn N013 0 0 AO6408
R11 AUDIO2 N013 4.7K tol=1 pwr=0.1
R§Speaker VCC SpeakerIn 100
C11 N019 0 0.1µ V=10 Irms=4.74342 Rser=0.01 Lser=0
R13 VCC N017 4.7K tol=1 pwr=0.1
R14 TRIGGER1 VCC 4.7K tol=1 pwr=0.1
R15 P001 ALARM 4.7K tol=1 pwr=0.1
R§TTP_POWER 0 N011 100
V2 P002 0 PWL(1 0 1.1 5 1.5 5 1.6 0)
S1 TRIGGER1 0 P002 0 switch
M3 N011 P001 VCC VCC AO6407
R16 TTP_AHLB N011 4.7K tol=1 pwr=0.1
R17 0 TTP_AHLB 1K tol=1 pwr=0.1
V3 N018 0 PWL(3 0 3.1 5 3.5 5 3.6 0)
XU4 N018 0 N017 0 PC817 Igain=2.3m
R12 N017 N019 2K
D12 N017 N019 1N4148
R§SeriesResistor2 VCC P003 1K
R§POT3 P003 N002 1K
R§POT4 N002 N004 1K
C5 THRES1 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
D1 N002 THRES1 1N4148
D3 THRES1 N004 1N4148
R§SeriesResistor3 N002 DIS1 1K
R§SeriesResistor4 VCC P004 1K
R§POT5 P004 N010 15K
R§POT6 N010 N012 15K
C6 THRES2 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
D4 N010 THRES2 1N4148
D5 THRES2 N012 1N4148
R§SeriesResistor5 N010 DIS2 1K
R§SeriesResistor6 VCC P005 1K
R§POT7 P005 N014 68K
R§POT8 N014 N016 68K
C7 THRES3 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
D6 N014 THRES3 1N4148
D7 THRES3 N016 1N4148
R§SeriesResistor7 N014 DIS3 1K
R§SeriesResistor8 VCC P006 1K
R§POT9 P006 N020 20K
R§POT10 N020 N021 20K
C12 THRES4 0 0.1µ V=25 Irms=0 Rser=0.021 Lser=549p mfg="Würth Elektronik" pn="885012209019 WCAP-CSGP 1210" type="X7R"
D13 N020 THRES4 1N4148
D14 THRES4 N021 1N4148
R§SeriesResistor9 N020 DIS4 1K
XU1 DIS1 THRES1 N003 VCC AUDIO1 THRES1 0 VCC DIS2 THRES2 N005 VCC AUDIO2 THRES2 NE556_TRANSISTOR
C13 0 N005 0.1µ V=25 Irms=993m Rser=0.0828114 Lser=0 mfg="KEMET" pn="C1812F104K3RAC" type="X7R"
C14 N003 0 0.1µ V=25 Irms=993m Rser=0.0828114 Lser=0 mfg="KEMET" pn="C1812F104K3RAC" type="X7R"
XU5 DIS3 THRES3 N008 VCC AUDIOTOGGLE THRES3 0 VCC DIS4 THRES4 N009 VCC LED THRES4 NE556_TRANSISTOR
C15 0 N009 0.1µ V=25 Irms=993m Rser=0.0828114 Lser=0 mfg="KEMET" pn="C1812F104K3RAC" type="X7R"
C16 N008 0 0.1µ V=25 Irms=993m Rser=0.0828114 Lser=0 mfg="KEMET" pn="C1812F104K3RAC" type="X7R"
M4 P007 N007 0 0 AO6408
R1 LED N007 4.7K tol=1 pwr=0.1
XU3 0 TRIGGER1 ALARM N019 VCC NC_01 0 P008 NE555_TRANSISTOR
C9 P008 0 0.1µ V=25 Irms=993m Rser=0.0828114 Lser=0 mfg="KEMET" pn="C1812F104K3RAC" type="X7R"
D2 RESET_AUDIO2 AUDIOTOGGLE 1N4148
R§LEDARRAY VCC P007 100
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5 0 1 uic
.options reltol=0.001 abstol=1p chgtol=1f
.options gmin=1p cshunt=10f
.options itl1=300 itl2=1500 itl4=50
.model switch sw(ron=0.001 roff=1MEG vt=4.9 vh=0)
.lib LT1083.lib
.lib NE555_TRANSISTOR.lib
.lib NE556_TRANSISTOR.lib
.lib PC817.sub
.backanno
.end
